US07498337B2
1-[2-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine fumarate
To a solution of methylamine hydrochloride (232 mg) in methanol (10 mL) was added 2-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde (250 mg) and the mixture was stirred for 30 min. Sodium triacetoxyborohydride (218 mg) was added and the mixture was stirred for 2 hr. The reaction mixture was concentrated under reduced pressure at 30° C. and extracted with a saturated aqueous sodium hydrogencarbonate solution and ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate-methanol=1:0→17:3) and dissolved in ethyl acetate (10 mL), and a solution of fumaric acid (80 mg) in methanol (2 mL) was added. Crystallization from the mixture gave the title compound as colorless crystals (yield 97 mg, 29%).

reactant | methylamine hydrochloride | 232 mg | Cl.CN
reactant | 2-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carbaldehyde | 250 mg | ClC=1N(C(=CC1C=O)C1=C(C=CC=C1)F)S(=O)(=O)C=1C=NC=CC1 | C16H10ClFN2O3S
reactant | Sodium triacetoxyborohydride | 218 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methanol | 10 mL | CO | CH4O
product | 1-[2-chloro-5-(2-fluorophenyl)-1-(pyridin-3-ylsulfonyl)-1H-pyrrol-3-yl]-N-methylmethanamine fumarate | yield 97 mg, 29% | C(\C=C\C(=O)O)(=O)O.ClC=1N(C(=CC1CNC)C1=C(C=CC=C1)F)S(=O)(=O)C=1C=NC=CC1 | InChI=1S/C17H15ClFN3O2S.C4H4O4/c1-20-10-12-9-16(14-6-2-3-7-15(14)19)22(17(12)18)25(23,24)13-5-4-8-21-11-13;5-3(6)1-2-4(7)8/h2-9,11,20H,10H2,1H3;1-2H,(H,5,6)(H,7,8)/b;2-1+
